* Z:\mnt\design.r\spice\examples\1575-2.8.asc
M3 N001 N003 OUT OUT IRFZ24
I2 OUT 0 PULSE(.2 5 300u 100n 100n 300u 600u) load
C1 OUT 0 24µ
V1 N001 0 5
C2 N004 0 10p
R3 N004 N005 5K
C3 N005 0 1000p
V2 N002 0 12
XU1 0 N002 0 OUT N004 N003 N001 N001 LT1575-2.8
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m
.lib LT1575.lib
.backanno
.end
